US04863958
A mixture of 2 (p-methoxybenzoyl)-3 methyl-4-hydroxy-5,7-dipropylbenzofuran (0.30 gm; 0.80 mmoles), 99% hydrazine (0.2 mL), potassium hydroxide (0.40 gm; 7mmoles) in ethylene glycol (10 mL) was heated at 140° C. for a period of 2.5 hours and at 195° C. for one hour. The reaction mixture was cooled, poured into water, and extracted with ethylacetate. The organic phase was washed with 20% citric acid, with brine, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel using 20% ethylacetate in hexane as eluent to yield 140 mg (50%) of 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5,7-dipropylbenzofuran, mp. 70°-72° C.

reactant | (p-methoxybenzoyl)-3 methyl-4-hydroxy-5,7-dipropylbenzofuran | 0.80 mmoles, 0.30 gm | COC1=CC=C(C(=O)C=2OC3=C(C2C)C(=C(C=C3CCC)CCC)O)C=C1 | C23H26O4
reactant | hydrazine | 0.2 mL | NN | H4N2
reactant | potassium hydroxide | 7mmoles, 0.40 gm | [OH-].[K+]
reactant | water | O | H2O
solvent | ethylene glycol | 10 mL | C(CO)O | C2H6O2
product | 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5,7-dipropylbenzofuran | 140 mg, 50% | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3CCC)CCC)O)C=C1 | C23H28O3
